US08487108B2
To a solution of (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate in dry CH2Cl2 (50 mL) was added Et3N (5.2 mL, 37.6 mmol) at −5-0° C. Then a solution of MsCl (1.3 g, 11.3 mmol) in dry CH2Cl2 (20 mL) was added dropwise at the same temperature. After addition, the reaction was allowed to gradually warm to rt. Upon completion of the reaction, 50 mL of water was added, the aqueous layer was extracted with CH2Cl2, the combined organic layers were washed with 10% citric acid, sat. NaHCO3 and brine, then dried over Na2SO4, filtered and concentrated to give (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate (4.2 g, 99%), which was used in the next step without purification. 1H NMR (CDCl3, 400 MHz) δ 7.12 (m, 3H), 4.52 (q, 1H), 4.31 (m, 3H), 4.09 (t, 1H), 3.57 (m, 2H), 3.06 (d, 3H), 2.70 (m, 2H), 1.93 (m, 2H), 1.44 (d, 9H).

reactant | (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate | FC1=C(C=CC=C1F)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCO | C19H27F2NO4
reactant | Et3N | 37.6 mmol, 5.2 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 11.3 mmol, 1.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (3R)-tert-butyl 3-((2,3-difluorophenyl)(2-(methylsulfonyloxy)ethoxy)methyl)piperidine-1-carboxylate | 4.2 g, 99% | FC1=C(C=CC=C1F)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C | C20H29F2NO6S
